US04144047
Preparation of Ethyl β-Pyrrolidinylacrylate.
A solution of 29.43 g of ethyl propiolate (0.30 mol) in 200 ml of benzene was held at 25° in a water bath with magnetic stirring. A solution of 21.34 g of pyrrolidine in 50 ml of benzene was added dropwise over a period of 45 minutes, during which time the temperature rose to 35°. The clear brown solution was stirred overnight and the solvent under reduced pressure at 55°. The residue was distilled under reduced pressure to give 35.05 g of yellow oil, boiling point 110° (0.4 torr), which crystallized upon standing. The yellow solid was recrystallized from petroleum ether to give 31.36 (62%) of yellowish platelets, m.p. 37.5°-39.5°.

reactant | ethyl propiolate | 0.30 mol, 29.43 g | C(C#C)(=O)OCC | C5H6O2
reactant | pyrrolidine | 21.34 g | N1CCCC1 | C4H9N
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | Ethyl β-Pyrrolidinylacrylate | 35.05 g | N1(CCCC1)C=CC(=O)OCC | C9H15NO2
